US05440044
2-[(1RS)-1-Hydroxy-1-(3-carboxyphenyl)-methyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine
Under the conditions of example 2, 80 mg of 2-[(1RS)-1-hydroxy-1-(3-methoxycarbonylphenyl)-methyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine in 4 ml of methanol is saponified with 4 ml of 0.5 n sodium hydroxide solution and worked up. 40 mg of the title compound is obtained as colorless foam.

reactant | 2-[(1RS)-1-hydroxy-1-(3-methoxycarbonylphenyl)-methyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 80 mg | OC(C1=CC(=CC=C1)C(=O)OC)C1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C25H33NO4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | 2-[(1RS)-1-Hydroxy-1-(3-carboxyphenyl)-methyl]-6-[(1E)-(3RS)-3-hydroxy-1-undecenyl]-pyridine | 40 mg | OC(C1=CC(=CC=C1)C(=O)O)C1=NC(=CC=C1)\C=C\C(CCCCCCCC)O | C24H31NO4
